US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2,4-difluorophenyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2,4-difluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.73 g, 2 mmol) was reacted with NBS (0.36 g, 2 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.53 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2,4-difluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.73 g | FC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=NN1 | C16H14F2N4O2S
reactant | NBS | 2 mmol, 0.36 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2,4-difluorophenyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.53 g, 60% | BrCC1=C(C(N=C(N1)C=1SC=NN1)C1=C(C=C(C=C1)F)F)C(=O)OCC | C16H13BrF2N4O2S
